US09023852B2
1-[3-(4-Chloro-phenyl)-[1,2,4]thiadiazol-5-yl]-4-[2-(4-methoxy-phenyl)-allyl]-piperazine
A mixture of methyltriphenylphosphonium bromide/sodium amide (57.7 mg, 146 μmol) was combined with THF (5 mL) to give a yellow suspension and stirred for 1 h at RT. 2-(4-(3-(4-chlorophenyl)-1,2,4-thiadiazol-5-yl)piperazin-1-yl)-1-(4-methoxyphenyl)ethanone (50 mg, 117 μmol) dissolved in THF (3 mL) was added drop-wise via syringe over 5 min. The resulting orange suspension was stirred over night at RT. Water (10 mL) and EtOAc (10 mL) was added and stirred for 10 min. The aqueous layer was separated and extracted with EtOAc (1×10 mL). The organic layers were washed with brine (1×10 mL), dried over Na2SO4, filtered off and concentrated in vacuo. The residue was purified by column chromatography on silica eluting with a gradient formed from heptane and EtOAc to yield, after evaporation of the product containing fraction, 33 mg (66%) of the title compound as off-white solid. MS (m/e): 427.2 (MH+).

reactant | methyltriphenylphosphonium bromide sodium amide | 146 μmol, 57.7 mg | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.[NH2-].[Na+]
reactant | 2-(4-(3-(4-chlorophenyl)-1,2,4-thiadiazol-5-yl)piperazin-1-yl)-1-(4-methoxyphenyl)ethanone | 117 μmol, 50 mg | ClC1=CC=C(C=C1)C1=NSC(=N1)N1CCN(CC1)CC(=O)C1=CC=C(C=C1)OC | C21H21ClN4O2S
reactant | Water | 10 mL | O | H2O
reactant | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 1-[3-(4-Chloro-phenyl)-[1,2,4]thiadiazol-5-yl]-4-[2-(4-methoxy-phenyl)-allyl]-piperazine | ClC1=CC=C(C=C1)C1=NSC(=N1)N1CCN(CC1)CC(=C)C1=CC=C(C=C1)OC | C22H23ClN4OS
